US07321001B2
[4-(2-Amino-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (84 mg, 0.542 mmol) was added to a mixture of 150 mg (1.08 mmol) of potassium carbonate in 3 mL of ethyl acetate in presence of 0.5 mL of water. To the resulting mixture was added 155 mg (0.813 mmol) toluenesulfonyl chloride. The resulting mixture was allowed to stir at room temperature overnight. Upon completion, 20 mL of 2N HCl aqueous solution was added and the resulting mixture was extracted with ethyl acetate (3×30 mL). The combined extracts were washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed to give 97 mg of {4-[2-(toluene-4-sulfonylamino)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester. 1H NMR (CDCl3): δ 7.93 (s, 1H), 7.65 (d, J=8.36 Hz, 2H), 7.15-7.28 (m, 5H), 6.68 (d, J=8.68 Hz, 1H), 6.63 9d, J=8.48 Hz, 2H), 3.72 (s, 3H), 3.61 9s, 2H), 2.39 9s, 3H).

reactant | [4-(2-Amino-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 0.542 mmol, 84 mg | COC(CC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)N)=O | C16H14F3NO3
reactant | potassium carbonate | 1.08 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluenesulfonyl chloride | 0.813 mmol, 155 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 2N, 20 mL | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | {4-[2-(toluene-4-sulfonylamino)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | 97 mg | COC(CC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C23H20F3NO5S
